US07728025B2
(Step 12) Production of 1-(2-(6-(4-oxazol-5-yl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
24 mg of 1-(2-(6-(4-oxazol-5-yl-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone was dissolved in 1 ml of trifluoroacetic acid, and the reaction liquid was stirred at room temperature for 2 hours. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through reversed-phase middle-pressure liquid chromatography (ODS-AS-360-CC (by YMC), mobile phase: water-acetonitrile-0.1% trifluoroacetic acid) to obtain the entitled compound as a yellow oily substance.

reactant | 1-(2-(6-(4-oxazol-5-yl-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | 24 mg | O1C=NC=C1C1=CC=C(OC=2C(=CC3=C(N=C(N3COCC[Si](C)(C)C)C3=NC=CC=C3)C2)C2N(CCC2)C(C)=O)C=C1 | C33H37N5O4Si
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-(6-(4-oxazol-5-yl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | O1C=NC=C1C1=CC=C(OC=2C(=CC3=C(N=C(N3)C3=NC=CC=C3)C2)C2N(CCC2)C(C)=O)C=C1 | C27H23N5O3
